Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
nifedipine / Beta-Blockers (Beta-Adrenergic Blocking Agts)
 
Attending: ___
 
Chief Complaint:
STEMI
 
Major Surgical or Invasive Procedure:
Left heart catheterization ___

 
History of Present Illness:
___ M with PMH of hypertension, hyperlipidemia, and diabetes 
that presents with STEMI. Was exercising on the treadmill and 
after 10 minutes of interval training developed non-radiating 
substernal CP. No diaphoresis, no SOB, no 
lightheadedness/dizziness. He has never had these symptoms 
before. He did an ECG on himself (he is a research 
cardiologist), thought it looked like a MI, and went to ___ 
Urgent Care in ___. ECG at the Urgent Care showed 
STEMI. Trop 0.03. He was transferred directly to the ___ cath 
lab. 

His only other recent complaint has been ___ episodes of 
presyncope in the last month, during which he gets dizzy when 
standing from a chair. Not associated with palpitations, 
tachycardia, or diaphoresis. No syncope.    
 
On review of systems, he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. He denies recent fevers, chills or rigors. 
He denies exertional buttock or calf pain. All of the other 
review of systems were negative.  
 
Cardiac review of systems is notable for absence of dyspnea on 
exertion, paroxysmal nocturnal dyspnea, orthopnea, ankle edema, 
and palpitations.  
 
Past Medical History:
- Hypertension: on chlorthalidone, Cialis, valsartan, and 
intermittent fasting (allergic to CCBs) 
- Hyperlipidemia: takes fish oil and krill oil  
- Diabetes (T2DM): takes Byetta
- Psoriasis
 
Social History:
___
Family History:
Father diagnosed with CAD at ___ and died of MI at ___.
Mother with HTN
___ grandfather with T2DM

 
Physical Exam:
Admission Physical Exam:
VS: 97.7, 136-142/65-74, 87-89, 98% RA
WT: NR
I/O: NR
GENERAL: WDWN M in NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa.
NECK: Supple with no JVD.  
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops. 
LUNGS: CTAB.
ABDOMEN: Soft, NTND. No HSM or tenderness. 
EXTREMITIES: No c/c/e. 2+ distal pulses.  
SKIN: Psoriasis plaques on elbows, legs.

Discharge Physical Exam:
VS: 98.2, 122-141/65-83, 73-84, 97-100% RA
WT: 78.2 kg
I/O: 1.1L/2.2L, since MN ___
GENERAL: WDWN M in NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa.
NECK: Supple with no JVD.  
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops. 
LUNGS: CTAB.
ABDOMEN: Soft, NTND. No HSM or tenderness. 
EXTREMITIES: No c/c/e. 2+ distal pulses.  
SKIN: Psoriasis plaques on elbows, legs.  
 
Pertinent Results:
Admission Labs:
----------------
___ 12:50PM BLOOD WBC-10.5* RBC-5.79 Hgb-15.9 Hct-47.0 
MCV-81* MCH-27.5 MCHC-33.8 RDW-14.6 RDWSD-42.5 Plt ___
___ 12:50PM BLOOD Neuts-82.6* Lymphs-9.4* Monos-6.5 
Eos-0.5* Baso-0.6 Im ___ AbsNeut-8.66* AbsLymp-0.99* 
AbsMono-0.68 AbsEos-0.05 AbsBaso-0.06
___ 12:50PM BLOOD ___ PTT-31.8 ___
___ 12:50PM BLOOD Glucose-237* UreaN-47* Creat-2.1* Na-132* 
K-4.3 Cl-100 HCO3-14* AnGap-22*
___ 12:50PM BLOOD cTropnT-0.03*
___ 07:00PM BLOOD Albumin-4.5
___ 07:00PM BLOOD TSH-0.79
___ 05:09PM BLOOD Lactate-1.3

Pertinent Labs During Hospitalization:
___ 05:45AM BLOOD CK-MB-160* cTropnT-6.03*
___ 03:00PM BLOOD CK-MB-97* cTropnT-3.98*
___ 03:00PM BLOOD %HbA1c-7.0* eAG-154*

Discharge Labs:
----------------
___ 05:40AM BLOOD WBC-6.9 RBC-5.56 Hgb-14.8 Hct-45.7 MCV-82 
MCH-26.6 MCHC-32.4 RDW-15.1 RDWSD-44.3 Plt ___
___ 05:40AM BLOOD Glucose-114* UreaN-34* Creat-1.5* Na-135 
K-4.1 Cl-104 HCO3-18* AnGap-17
___ 05:40AM BLOOD Calcium-9.4 Phos-2.6* Mg-2.1

Pertinent Studies:
-------------------
L Heart Cath ___:
Complete occlusion in LAD at D1. D1 80% stenosis. DES placed in 
mid-LAD and D1 patent at end of case. Circumflex ___ narrowed 
distally. RCA moderately diseased. 

TTE ___:
The left atrium and right atrium are normal in cavity size. No 
atrial septal defect is seen by 2D or color Doppler. The 
estimated right atrial pressure is ___ mmHg. There is mild 
symmetric left ventricular hypertrophy with normal cavity size 
and global systolic function (LVEF 55%). There is mild regional 
left ventricular systolic dysfunction with hypokinesis of the 
mid to distal septum, distal inferior wall, and apex. No masses 
or thrombi are seen in the left ventricle. Right ventricular 
chamber size and free wall motion are normal. The diameters of 
aorta at the sinus, ascending and arch levels are normal. The 
aortic valve leaflets are mildly thickened (?#). There is no 
aortic valve stenosis. No aortic regurgitation is seen. The 
mitral valve leaflets are mildly thickened. There is no mitral 
valve prolapse. Physiologic mitral regurgitation is seen (within 
normal limits). The left ventricular inflow pattern suggests 
impaired relaxation. The tricuspid valve leaflets are mildly 
thickened. The pulmonary artery systolic pressure could not be 
determined. There is no pericardial effusion. 
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
regional systolic dysfunction c/w CAD and suggestion of impaired 
LV relaxation. Overall preserved global biventricular systolic 
function.

ECG: NSR, RBBB, STE in V2-V4 smaller compared to ECG on 
admission 
 
Brief Hospital Course:
___ M with PMH of hypertension, hyperlipidemia, and diabetes 
that presents with STEMI. 

# STEMI
Initial ECG showed ST elevations in V2-V4, and ECG post-cath 
with some persistent but smaller STE in V2-V4. TropT went from 
0.03 before cath to 6.03 and 3.98 after cath, probably due to 
the effects of the infarct and traumatic injury from the cath. 
CK-MB was 160 and 97 after cath. Cardiac cath showed complete 
occlusion in LAD at D1, and D1 with 80% stenosis. DES placed in 
mid-LAD, and D1 patent at end of case. Circumflex ___ narrowed 
distally. RCA moderately diseased. TTE showed normal global 
systolic function (LVEF 55%), mild symmetric left ventricular 
hypertrophy with regional systolic dysfunction c/w CAD, and 
suggestion of impaired LV relaxation. Patient should take 
Aspirin 81mg indefinitely and Ticagrelor 90mg BID for at least 
one year. Patient was hesitant to take a statin due to their 
side effect profile, but he agreed to take rosuvastatin 5mg 
daily. He was started on metoprolol succinate XL 25mg daily for 
cardioprotection. 

# HTN
Patient allergic to CCBs. Home valsartan and chlorthalidone were 
continued. The patient takes Cialis for blood pressure, which 
was held due to the hospital pharmacy not stocking it.

# HLD
Patient started on rosuvastatin 5mg daily. Home fish oil and 
krill oil were held.

# Diabetes
Hgb A1c was 7.0 on ___. Home Byetta was continued. 

Transitional Issues:
-Aspirin 81mg daily and Ticagrelor 90mg BID started. Will need 
Ticagrelor for at least ___ year.
-Rosuvastatin 5mg daily started
-Metoprolol succinate XL 25mg daily started
-Will need sub-max stress test in 2 weeks to determine best time 
for re-starting home exercise regimen 
-Pt with Cr 2.2 on admission, which was downtrending and 1.5 on 
day of discharge. He appears to also have had elevated Cr in the 
past. Please consider workup for diabetic nephropathy as 
outpatient.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Valsartan 320 mg PO DAILY 
2. Chlorthalidone 12.5 mg PO DAILY 
3. Cialis (tadalafil) 5 mg oral DAILY 
4. Fish Oil (Omega 3) 6000 mg PO DAILY 
5. Krill Oil (Omega 3 & 6) (krill-om3-dha-epa-om6-lip-astx) 
1,500-165-67.5 mg oral DAILY 
6. Byetta (exenatide) 10 mcg/dose(250 mcg/mL) 2.4 mL 
subcutaneous DAILY 

 
Discharge Medications:
1. Byetta (exenatide) 10 mcg/dose(250 mcg/mL) 2.4 mL 
subcutaneous DAILY 
2. Chlorthalidone 12.5 mg PO DAILY 
3. Valsartan 320 mg PO DAILY 
4. Aspirin EC 81 mg PO DAILY 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet by mouth 
daily Disp #*30 Tablet Refills:*0
5. Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet by mouth daily Disp #*30 
Tablet Refills:*0
6. Rosuvastatin Calcium 5 mg PO QPM 
RX *rosuvastatin [Crestor] 5 mg 1 tablet by mouth daily Disp 
#*30 Tablet Refills:*0
7. TiCAGRELOR 90 mg PO BID 
RX *ticagrelor [BRILINTA] 90 mg 1 tablet by mouth twice daily 
Disp #*60 Tablet Refills:*0
8. Cialis (tadalafil) 5 mg oral DAILY 
9. Fish Oil (Omega 3) 6000 mg PO DAILY 
10. Krill Oil (Omega 3 & 6) (krill-om3-dha-epa-om6-lip-astx) 
1,500-165-67.5 mg oral DAILY 
11. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
RX *nitroglycerin 0.4 mg 1 tablet sublingually every five 
minutes as needed for chest pain Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: STEMI, Coronary Artery Disease

Secondary: Hypertension, Hyperlipidemia, Type 2 Diabetes 
Mellitus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Dr. ___,

___ was a pleasure meeting and helping to take care of ___ while 
___ were hospitalized.

___ presented to the hospital with a STEMI, for which ___ 
underwent a left heart catheterization. ___ had nearly complete 
stenosis in the mid LAD and a drug-eluding stent was placed. To 
maintain stent patency, ___ should take aspirin 81mg daily 
indefinitely and Ticagrelor 90mg BID for at least one year. Your 
TTE showed preserved global biventricular systolic function 
(LVEF 55%) but mild symmetric left ventricular hypertrophy with 
regional systolic dysfunction consistent with CAD. At home, ___ 
should take rosuvastatin to prevent progression of your CAD and 
metoprolol succinate XL to prevent maladaptive left ventricular 
remodeling and reduce cardiac oxygen demand. 

Please adhere to the walking program recommended by our physical 
therapist and avoid other forms of exercise until your stress 
test in 2 weeks.

Sincerely,
Your ___ Care Team 
 
Followup Instructions:
___